US08802686B2
4-((1R,2R)-2-benzyloxy-1-methylpropoxy)-2-chloro-5-trifluoromethylpyrimidine
A solution of 5.00 g (23.0 mmol) of 2,4-dichloro-5-trifluoromethylpyrimidine and 5.40 g (30.0 mmol) of (2R,3R)-3-benzyloxybutan-2-ol in 60 ml of diethyl ether and 65 ml of acetonitrile were admixed at 0° C. with 1.21 g (27.7 mmol) of sodium hydride (55% strength), divided into 3 portions, and then stirred for 90 minutes at 15° C. The mixture was admixed with dilute sodium chloride solution and extracted (3×) with ethyl acetate. The combined organic phases were dried (Na2SO4), filtered and concentrated by evaporation. The resulting residue was purified chromatographically (hexane/ethyl acetate 95:5). This gave 1.60 g (4.4 mmol; yield: 19%) of the product.

reactant | 2,4-dichloro-5-trifluoromethylpyrimidine | 23.0 mmol, 5.00 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | (2R,3R)-3-benzyloxybutan-2-ol | 30.0 mmol, 5.40 g | C(C1=CC=CC=C1)O[C@@H]([C@@H](C)O)C | C11H16O2
reactant | sodium hydride | 27.7 mmol, 1.21 g | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | acetonitrile | 65 ml | C(C)#N | C2H3N
product | 4-((1R,2R)-2-benzyloxy-1-methylpropoxy)-2-chloro-5-trifluoromethylpyrimidine | C(C1=CC=CC=C1)O[C@@H]([C@H](OC1=NC(=NC=C1C(F)(F)F)Cl)C)C | C16H16ClF3N2O2
